US05399563
A solution of 16.0 g of 3-quinuclidinone (hydrochloride) in 100 ml of water is treated with 100 ml of a 32% sodium hydroxide solution. 36.0 g of 4-(2-ethylhexyloxy)benzaldehyde [can be prepared from p-hydroxybenzaldehyde by reaction with 1-chloro-2-ethylhexane], dissolved in 250 ml of ethanol, is then added with stirring and the mixture is heated under reflux for 3 hours. After the reaction is complete, it is worked up in the customary manner. 2-[4-(2-ethylhexyloxy)benzylidene]quinuclidin-3-one is obtained in the form of a pale yellow solid; m.p. 37°, λmax =331 nm, E=0.8.

reactant | 3-quinuclidinone | 16.0 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-(2-ethylhexyloxy)benzaldehyde | 36.0 g | C(C)C(COC1=CC=C(C=O)C=C1)CCCC | C15H22O2
solvent | water | 100 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-[4-(2-ethylhexyloxy)benzylidene]quinuclidin-3-one | C(C)C(COC1=CC=C(C=C2N3CCC(C2=O)CC3)C=C1)CCCC | C22H31NO2
